US04925849
A solution of trimethyl phosphonoacetate (4.0 g) in toluene (10 ml) was added to a mixture of sodium hydride (63%., 880 mg) in toluene (45 ml) with stirring and cooling and then heated at 60° C. for 20 minutes. To the mixture 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde (2.0 g) was added and heated at 60° C. for 8 hours. A saturated sodium bicarbonate solution (30 ml) was added to the reaction mixture and extracted with ethyl acetate (30 ml, 2 times). The extract was washed with brine (30 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and isopropyl alcohol to give crystals of methyl 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylate (trans isomer) (1.34 g).

reactant | trimethyl phosphonoacetate | 4.0 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | 880 mg | [H-].[Na+]
reactant | 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde | 2.0 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=O | C14H10N2O
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylate | 1.34 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)OC | C17H14N2O2
